### PR TITLE
[Merged by Bors] - chore(RingTheory): `Module.Flat` is invariant under `ULift`

### PR DESCRIPTION
**Pull request by chrisflav**
From Proetale.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Flat/Stability.lean [hunk 1]
```diff
@@ -68,6 +68,16 @@ theorem trans [Flat R S] [Flat S M] : Flat R M := by
   iterate 2 apply Flat.lTensor_preserves_injective_linearMap
   exact Subtype.val_injective
 
+variable {R M} in
+lemma ulift_iff : Flat (ULift.{t} R) (ULift.{t'} M) ↔ Flat R M := by
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Flat/Stability.lean]: I'd argue we want two separate lemmas here, for each variable lifted separately

File: Mathlib/RingTheory/TensorProduct/Maps.lean [hunk 2]
```diff
@@ -851,3 +853,44 @@ variable {C : Subalgebra R A}
...
+
+section
+
+variable (R S A B : Type*) [CommSemiring R] [CommSemiring S] [Algebra R S]
+  [Semiring A] [Algebra R A] [Algebra S A] [IsScalarTower R S A] [Semiring B] [Algebra R B]
+
+attribute [local instance] ULift.algebra' in
+/-- `ULift` commutes with tensor products of algebras. -/
+def Algebra.TensorProduct.uliftEquiv :
+    ULift.{u₁} (A ⊗[R] B) ≃ₐ[ULift S] ULift.{u₂} A ⊗[ULift.{u₃} R] ULift.{u₄} B :=
```
Comment (eric-wieser) [inline Mathlib/RingTheory/TensorProduct/Maps.lean]: This is more general as
```suggestion
    ULift.{u₁} (A ⊗[R] B) ≃ₐ[S] ULift.{u₂} A ⊗[ULift.{u₃} R] ULift.{u₄} B :=
```

File: Mathlib/RingTheory/Flat/Stability.lean [hunk 3]
```diff
@@ -68,6 +68,21 @@ theorem trans [Flat R S] [Flat S M] : Flat R M := by
   iterate 2 apply Flat.lTensor_preserves_injective_linearMap
   exact Subtype.val_injective
 
+variable {R M} in
+lemma ulift_iff_left : Flat (ULift.{t} R) M ↔ Flat R M := by
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Flat/Stability.lean]:
```suggestion
lemma ulift_left_iff : Flat (ULift.{t} R) M ↔ Flat R M := by
```

File: Mathlib/RingTheory/Flat/Stability.lean [hunk 4]
```diff
@@ -68,6 +68,21 @@ theorem trans [Flat R S] [Flat S M] : Flat R M := by
...
+  refine ⟨fun h ↦ .trans _ (ULift R) _, fun h ↦ ?_⟩
+  have : Module.Flat (ULift.{t} R) R := .of_ulift
+  let _ := ULift.algebra'
+  exact .trans _ R _
+
+variable {R M} in
+lemma ulift_iff_right : Flat R (ULift.{t} M) ↔ Flat R M :=
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Flat/Stability.lean]: Perhaps this and the above should be `simp`?

File: Mathlib/LinearAlgebra/TensorProduct/Associator.lean [hunk 5]
```diff
@@ -325,6 +327,30 @@ theorem tensorTensorTensorAssoc_symm_tmul (m : M) (n : N) (p : P) (q : Q) :
 
 end
 
+section
+
+variable (R M N : Type*) [CommSemiring R] [AddCommMonoid M] [AddCommMonoid N]
+  [Module R M] [Module R N]
+
+/-- `ULift` commutes with tensor products. -/
+def uliftEquiv : ULift.{u₁} (M ⊗[R] N) ≃ₗ[R] ULift.{u₂} M ⊗[ULift.{u₃} R] ULift.{u₄} N :=
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/TensorProduct/Associator.lean]: This should generalize to
```suggestion
def uliftEquiv : ULift.{u₁} (M ⊗[R] N) ≃ₗ[S] ULift.{u₂} M ⊗[ULift.{u₃} R] ULift.{u₄} N :=
```

File: Mathlib/LinearAlgebra/TensorProduct/Tower.lean [hunk 6]
```diff
@@ -52,7 +52,7 @@ namespace TensorProduct
 
 namespace AlgebraTensorModule
 
-universe uR uS uA uB uM uN uP uQ uP' uQ'
+universe u₁ u₂ u₃ u₄ uR uS uA uB uM uN uP uQ uP' uQ'
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/TensorProduct/Tower.lean]: I'd suggest scoping these just to the ulift section

File: Mathlib/LinearAlgebra/TensorProduct/Tower.lean [hunk 7]
```diff
@@ -589,6 +589,28 @@ theorem tensorTensorTensorComm_eq :
...
 end tensorTensorTensorComm
 
+section
+
+attribute [local instance] ULift.algebra' in
+/-- `ULift` commutes with tensor products. -/
+def uliftEquiv : ULift.{u₁} (M ⊗[R] N) ≃ₗ[A] ULift.{u₂} M ⊗[ULift.{u₃} R] ULift.{u₄} N :=
+  ULift.moduleEquiv ≪≫ₗ
+    AlgebraTensorModule.congr ULift.moduleEquiv.symm ULift.moduleEquiv.symm ≪≫ₗ
+    (equivOfCompatibleSMul _ _ _ _ _)
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/TensorProduct/Tower.lean:601]: I'm a little hesitant about these in general, and would be keen to hear what other reviewers think. To me, it seems better to have a separate equiv for each location that can be ulifted, which we effectively already have via `congr`, `moduleEquiv`, and `equivOfCompatibleSMul`.

Do we have existing places in the library where we lift all the types at once into a new universe like this?

Comment (chrisflav) [reply Mathlib/LinearAlgebra/TensorProduct/Tower.lean:601]: This is to ease the pain when we need to deduce a result in commutative algebra from category theory (which by design gives a universe monomorphic statement). For an application, see https://github.com/chrisflav/mathlib4/blob/c7f3a4bf387e03bcb41755a023d8402c46392e12/Mathlib/RingTheory/Etale/Weakly.lean#L79-L94.

Having these isomorphisms available makes it much easier to apply general category theory to commutative algebra situations and we should arguably have many more of these. The reason why we don't yet have them, is because we usually try hard to avoid using category theory in the unbundled world. In the case above, I really don't see any reasonable way to avoid it.

If you would like to hear a second opinion, @erdOne would probably have something to say.

Comment (erdOne) [reply Mathlib/LinearAlgebra/TensorProduct/Tower.lean:601]: I can attest to the fact that it is very annoying to avoid category theory in the linked argument. 

As for this particular declaration, I would slightly prefer having it as `ULift.{u₂} M ⊗[ULift.{u₃} R] ULift.{u₄} N ≃ₗ[A] M ⊗[R] N` instead, as `M ⊗[R] N` is the correct "equiv normal form" of this type, but I would not strongly object to merging it as is.

Comment (chrisflav) [reply Mathlib/LinearAlgebra/TensorProduct/Tower.lean:601]: I still think that the isomorphism proposed here is the one that will always be used in practice for this type of "reduce to monomorphic universes" proof step, so I don't understand why we would want a different isomorphism that is less useful.

Comment (eric-wieser) [reply Mathlib/LinearAlgebra/TensorProduct/Tower.lean:601]: Isn't Andrew just asking for the reverse direction of what you have here?

Comment (chrisflav) [reply Mathlib/LinearAlgebra/TensorProduct/Tower.lean:601]: No Andrew's isomorphism is missing a `ULift` on the right.

File: Mathlib/LinearAlgebra/TensorProduct/Tower.lean (hunk 6 above)
Comment (riccardobrasca) [reply Mathlib/LinearAlgebra/TensorProduct/Tower.lean]: Oh gosh, this is a lot of universes... I agree scoping is a good idea.

File: Mathlib/LinearAlgebra/TensorProduct/Tower.lean (hunk 7 above)
Comment (riccardobrasca) [reply Mathlib/LinearAlgebra/TensorProduct/Tower.lean:601]: I don't have a strong opinion on this one, but @chrisflav what do you think of Andrew's version?

Comment (chrisflav) [reply Mathlib/LinearAlgebra/TensorProduct/Tower.lean:601]: > I still think that the isomorphism proposed here is the one that will always be used in practice for this type of "reduce to monomorphic universes" proof step, so I don't understand why we would want a different isomorphism that is less useful.

This is still what I think of it, but I would prefer getting this PR merged over insisting on my point.

**Comment by riccardobrasca** [comment]
OK we can always add the other version if we need it. Thanks!

bors d+

File: Mathlib/LinearAlgebra/TensorProduct/Tower.lean (hunk 6 above)
Comment (chrisflav) [reply Mathlib/LinearAlgebra/TensorProduct/Tower.lean]: I have scoped them and for consistency, I did the same in the file `Mathlib/RingTheory/TensorProduct/Maps.lean`.

**Comment by chrisflav** [comment]
Thanks for the reviews!
bors r+
